US09108983B2
Step A: 4-[2-(5-Bromopyrimidin-2-yl)oxyethyl]morpholine
NaH (1.0 g, 25.0 mmol, 60% in oil) suspended in anhydrous tetrahydrofuran is cooled at 0° C. in an ice bath under argon, and then 2-morpholinoethanol (2.7 g, 20.7 mmol) is added dropwise. The ice bath is withdrawn and the suspension is stirred for 1 hour at ambient temperature. 5-Bromo-2-chloro-pyrimidine (4.0 g, 20.7 mmol) is then added at ambient temperature and the reaction mixture is stirred for 16 hours at ambient temperature. Saturated aqueous ammonium chloride solution (10 mL) and water (10 mL) are added to the reaction mixture; the pH is adjusted to 9 by adding saturated aqueous NaHCO3 solution. The resulting solution is extracted 3 times with ethyl acetate, the organic phase is then washed with brine, dried over MgSO4, and then evaporated to dryness. The expected compound precipitates out by means of the addition of petroleum ether.

reactant | NaH | 25.0 mmol, 1.0 g | [H-].[Na+]
reactant | 2-morpholinoethanol | 20.7 mmol, 2.7 g | O1CCN(CC1)CCO | C6H13NO2
reactant | 5-Bromo-2-chloro-pyrimidine | 20.7 mmol, 4.0 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 4-[2-(5-Bromopyrimidin-2-yl)oxyethyl]morpholine | BrC=1C=NC(=NC1)OCCN1CCOCC1 | C10H14BrN3O2
